US06740647B1
5-Aminomethyl-3,4-dimethylthiophene-2-carboxamide Hydrochloride
19 g (105.42 mmol) of 5-cyano-3,4-dimethylthiophene-2-carboxamide were suspended in 760 ml of methanol and 110 ml of 2N hydrochloric acid solution, 9.5 g of Pd on charcoal (10%) were added, and the mixture was hydrogenated at room temperature. After 4.71 of hydrogen had been taken up (4 h), methanol was distilled out in vacuo, and the aqueous phase was extracted three times with ethyl acetate and subsequently freeze-dried. 16.3 g of the required product resulted as a white solid (70.4% of theory).

reactant | 5-cyano-3,4-dimethylthiophene-2-carboxamide | 105.42 mmol, 19 g | C(#N)C1=C(C(=C(S1)C(=O)N)C)C | C8H8N2OS
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 2N, 110 ml | Cl | ClH
solvent | methanol | 760 ml | CO | CH4O
catalyst | Pd on charcoal | 9.5 g | [Pd] | Pd
product | 5-Aminomethyl-3,4-dimethylthiophene-2-carboxamide Hydrochloride | 16.3 g | Cl.NCC1=C(C(=C(S1)C(=O)N)C)C | InChI=1S/C8H12N2OS.ClH/c1-4-5(2)7(8(10)11)12-6(4)3-9;/h3,9H2,1-2H3,(H2,10,11);1H
